US07767675B2
Step 1. 4-{4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]-1H-pyrazol-1-yl}cyclohexanone
The crude reaction mixture containing 6-(1-{2-[1-(1,4-dioxaspiro[4.5]dec-8-yl)-1H-pyrazol-4-yl]imidazo[1,2-b][1,2,4]triazin-7-yl}cyclopropyl)quinoline (˜30 mg, 0.07 mmol), prepared using a procedure analogous to that described for the synthesis of Example 88 starting from 1,4-dioxaspiro[4.5]decan-8-ol, was concentrated and treated directly with AcOH (1 mL), water (100 μL) and heated to 100° C. for 1 h to afford the desired product, which was purified by RP-HPLC. LCMS: (M+H)=449.2.

reactant | 6-(1-{2-[1-(1,4-dioxaspiro[4.5]dec-8-yl)-1H-pyrazol-4-yl]imidazo[1,2-b][1,2,4]triazin-7-yl}cyclopropyl)quinoline | 0.07 mmol, ˜30 mg | O1CCOC12CCC(CC2)N2N=CC(=C2)C=2C=NC=1N(N2)C(=CN1)C1(CC1)C=1C=C2C=CC=NC2=CC1 | C28H27N7O2
reactant | 1,4-dioxaspiro[4.5]decan-8-ol | O1CCOC12CCC(CC2)O | C8H14O3
product | 4-{4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]-1H-pyrazol-1-yl}cyclohexanone | N1=CC=CC2=CC(=CC=C12)C1(CC1)C1=CN=C2N1C=C(C=N2)C=2C=NN(C2)C2CCC(CC2)=O | C27H24N6O
